datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)[C@@]12C[NH:10][C@@H](C(=O)[O-])[C@@H]1CC(=O)O2.Cc1ccc(/N=N/c2ccc([NH2+:21][H:20])cc2)cc1>>CC(C)[C@@]12C[NH+:10]([H:20])[C@@H](C(=O)[O-])[C@@H]1CC(=O)O2.Cc1ccc(/N=N/c2ccc([NH2:21])cc2)cc1 10=20;20,21=21",
"C[n+]1c(N)cc[n:10]c1[O-].Oc1cccc2cccc([O:21][H:20])c12>>C[n+]1c(N)cc[n+:10]([H:20])c1[O-].Oc1cccc2cccc([O-:21])c12 10=20;20,21=21",
"CCOC(=O)CCCCC[NH2:10].CC[N+:21](CC)(CCNc1cc(C)nc(Nc2ccc(Cl)cc2)n1)[H:20]>>CCOC(=O)CCCCC[NH2+:10][H:20].CC[N:21](CC)CCNc1cc(C)nc(Nc2ccc(Cl)cc2)n1 10=20;20,21=21",
"O=C(c1ccc(CO)cc1)[O-:10].Oc1ccc(/C=[NH+]/c2ccc(-c3ccc([NH2+:21][H:20])cc3)cc2)cc1>>O=C(c1ccc(CO)cc1)[O:10][H:20].Oc1ccc(/C=[NH+]/c2ccc(-c3ccc([NH2:21])cc3)cc2)cc1 10=20;20,21=21",
"CC(C)C[C@H]([NH3+])C(=O)N[C@@H](Cc1c[nH]c[n+:21]1[H:20])C(=O)[O-].Nc1sc(S(=O)(=O)c2ccccc2)c[n:10]1>>CC(C)C[C@H]([NH3+])C(=O)N[C@@H](Cc1c[nH]c[n:21]1)C(=O)[O-].Nc1sc(S(=O)(=O)c2ccccc2)c[n+:10]1[H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].O=C([O-])[C@@H]1C[C@@H](O)C[NH:10]1>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].O=C([O-])[C@@H]1C[C@@H](O)C[NH+:10]1[H:20] 10=20;20,21=21",
"N#CCC(c1ccccc1)[NH2:10].Nc1ccc2[nH]c[n+:21]([H:20])c2c1>>N#CCC(c1ccccc1)[NH2+:10][H:20].Nc1ccc2[nH]c[n:21]c2c1 10=20;20,21=21",
"NC(=S)C(Cc1ccccc1)[NH2:10].Oc1ccccc1CN1CCCNCCC[NH+:21]([H:20])CCC1>>NC(=S)C(Cc1ccccc1)[NH2+:10][H:20].Oc1ccccc1CN1CCCNCCC[NH:21]CCC1 10=20;20,21=21",
"CN1CCC/C1=[O+:21]/[H:20].O=C(c1ccoc1)[O-:10]>>CN1CCCC1=[O:21].O=C(c1ccoc1)[O:10][H:20] 10=20;20,21=21",
"Cc1c(O)c[n+:21]([H:20])cc1C1CCCCC1.Fc1cc2c(cc1Cl)[nH]c[n:10]2>>Cc1c(O)c[n:21]cc1C1CCCCC1.Fc1cc2c(cc1Cl)[nH]c[n+:10]2[H:20] 10=20;20,21=21",
"CC(C)[NH:10][C@H](c1ccccc1)[C@H](O)c1ccccc1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC(C)[NH+:10]([C@H](c1ccccc1)[C@H](O)c1ccccc1)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C[C@@H](N)[C@H](C)[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[C@@H](N)[C@H](C)[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"COc1ccc(CC(=O)[O:21][H:20])cc1.O=Cc1ccc2ccccc2[n:10]1>>COc1ccc(CC(=O)[O-:21])cc1.O=Cc1ccc2ccccc2[n+:10]1[H:20] 10=20;20,21=21",
"C[NH2+][C@H]1C(C)[C@@H]1[NH:10]C.[NH3+]CCCCCCC#CC#CCCC(=O)[O:21][H:20]>>C[NH2+][C@H]1C(C)[C@@H]1[NH+:10](C)[H:20].[NH3+]CCCCCCC#CC#CCCC(=O)[O-:21] 10=20;20,21=21",
"CCC[NH:10]CCC.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CCC[NH+:10](CCC)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=CC=C1)[H:20]>>CC[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=CC=C1 10=20;20,21=21",
"Cn1cncc1CC(C(=O)[O-])[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cn1cncc1CC(C(=O)[O-])[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCOc1ccc2c(c1)c(N)cc(/C=C/c1ccccc1)[n+:21]2[H:20].O=C1C[C@@H](C(=O)[O-:10])[C@@H](C(=O)[O-])O1>>CCOc1ccc2c(c1)c(N)cc(/C=C/c1ccccc1)[n:21]2.O=C1C[C@@H](C(=O)[O:10][H:20])[C@@H](C(=O)[O-])O1 10=20;20,21=21",
"Cc1c[n:10]c2c(cc(C)c3c(C)ccnc32)c1C.Cc1cc(-c2ccccc2)nn2cc(C[N+:21]3([H:20])CCOCC3)nc12>>Cc1c[n+:10]([H:20])c2c(cc(C)c3c(C)ccnc32)c1C.Cc1cc(-c2ccccc2)nn2cc(C[N:21]3CCOCC3)nc12 10=20;20,21=21",
"Nc1cc[n+:21]([H:20])nc1.O=C(CNS(=O)(=O)c1ccccc1)NCC(=O)[O-:10]>>Nc1cc[n:21]nc1.O=C(CNS(=O)(=O)c1ccccc1)NCC(=O)[O:10][H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].OCC(CO)[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.OCC(CO)[NH2+:10][H:20] 10=20;20,21=21",
"CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.C[NH:10]CCCCc1ccccc1>>CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.C[NH+:10](CCCCc1ccccc1)[H:20] 10=20;20,21=21",
"CC[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC=C(C(F)(F)F)C=C1)[H:20]>>CC[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC=C(C(F)(F)F)C=C1 10=20;20,21=21",
"C1CCC([NH:10]C2CCCCO2)OC1.C[NH+](C)Cc1c(O)c(O)c([O:21][H:20])c(C[NH+](C)C)c1C(=O)[O-]>>C1CCC([NH+:10](C2CCCCO2)[H:20])OC1.C[NH+](C)Cc1c(O)c(O)c([O-:21])c(C[NH+](C)C)c1C(=O)[O-] 10=20;20,21=21",
"CC(C)C(C(=O)[O-])[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)C(C(=O)[O-])[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCN[N:10](C)C.FC(F)(F)c1ccc2nnn([O:21][H:20])c2c1>>CCN[N+:10](C)(C)[H:20].FC(F)(F)c1ccc2nnn([O-:21])c2c1 10=20;20,21=21",
"CC(=CCl)C(=O)[O-:10].COc1cc(C(N)=O)ccc1-c1nc2c([nH]1)[n+:21]([H:20])cn2C>>CC(=CCl)C(=O)[O:10][H:20].COc1cc(C(N)=O)ccc1-c1nc2c([nH]1)[n:21]cn2C 10=20;20,21=21",
"CCCCCCCCCCC[NH2+:21][H:20].Cc1c[n+](C)c([O-])[n:10]c1N>>CCCCCCCCCCC[NH2:21].Cc1c[n+](C)c([O-])[n+:10]([H:20])c1N 10=20;20,21=21",
"C[n+]1c([S-])cc[n+:21]([H:20])c1[S-].OCc1ccc(-c2c3[nH]c4ccccc4c3cc[n:10]2)o1>>C[n+]1c([S-])cc[n:21]c1[S-].OCc1ccc(-c2c3[nH]c4ccccc4c3cc[n+:10]2[H:20])o1 10=20;20,21=21",
"Cc1cc2c(cc1[N+](=O)[O-])c(NCCC[NH+](C)C)cc[n:10]2.Cc1cccc(C=O)[n+:21]1[H:20]>>Cc1cc2c(cc1[N+](=O)[O-])c(NCCC[NH+](C)C)cc[n+:10]2[H:20].Cc1cccc(C=O)[n:21]1 10=20;20,21=21",
"CC[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=CC(Cl)=C1)[H:20]>>CC[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=CC(Cl)=C1 10=20;20,21=21",
